US05691364
To 2,6-bis(3-cyanophenoxy)pyridine-4-carboxylic acid, ethyl ester (1.6 g, 4.0 mmol) in tetrahydrofuran/water (50 mL, 1/1) was added lithium hydroxide (0.85 g, mmol). After stirring for 1.5 hours the reaction was partitioned with 1M HCl and ethyl acetate. The organic layer was separated, dried (MgSO4), and the solvent was removed in vacuo. The residue was dissolved in methylene chloride (50 mL) and thionyl chloride (2.4 g, 20 mmol) was added. After stirring for 2 hours the solvent was removed in vacuo. The residue was dissolved in methylene chloride/water (30/10 mL) and methylamine hydrochloride (0.090 g, 1.3 mmol) and potassium carbonate (0.46 g, 3.3 mmol) were added. The organic layer was separated, washed with brine, dried (MgSO4), and the solvent removed in vacuo to give 2,6-bis(3-cyanophenoxy)-N-methylpyridine-4-carboxamide; NMR (CDCl3) 7.5 (m,4), 7.3 (m,4), 7.0 (s,2), 6.25 (br s,1), 3.1 (d,3) ppm.

reactant | 2,6-bis(3-cyanophenoxy)pyridine-4-carboxylic acid, ethyl ester | 4.0 mmol, 1.6 g | C(#N)C=1C=C(OC2=NC(=CC(=C2)C(=O)OCC)OC2=CC(=CC=C2)C#N)C=CC1 | C22H15N3O4
reactant | lithium hydroxide | 0.85 g | [OH-].[Li+]
reactant | thionyl chloride | 20 mmol, 2.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylamine hydrochloride | 1.3 mmol, 0.090 g | Cl.CN
reactant | potassium carbonate | 3.3 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran water | 50 mL | O1CCCC1.O
product | 2,6-bis(3-cyanophenoxy)-N-methylpyridine-4-carboxamide | C(#N)C=1C=C(OC2=NC(=CC(=C2)C(=O)NC)OC2=CC(=CC=C2)C#N)C=CC1 | C21H14N4O3
